US08067445B2
Step 3: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-fluoro-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
(2′-Ethylaminomethyl-4′-fluoro-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester (0,172 g, 0.5 mmol) and diisopropylethylamine (0.18 mL, 1.0 mmol) were combined in CH2Cl2 (2.5 mL) and cooled to 0° C. Benzyl chloroformate (0.1 mL, 0.7 mmol) was added, and the reaction was stirred for 1 hour. The mixture was purified by silica gel chromatography, and then further purified by preparative HPLC to give the title compound.

reactant | (2′-Ethylaminomethyl-4′-fluoro-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | 0.5 mmol, 0,172 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)F)CNCC)=O | C20H24FNO3
reactant | diisopropylethylamine | 1.0 mmol, 0.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Benzyl chloroformate | 0.7 mmol, 0.1 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-fluoro-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H30FNO5
